US06951879B2
According to the method in example 4, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and N-(2-methoxyethyl)methylamine were converted to yield [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-(2-methoxy-ethyl)-methyl-amine, MS: 436 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | N-(2-methoxyethyl)methylamine | COCCNC | C4H11NO
product | [3-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-propyl]-(2-methoxy-ethyl)-methyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN(C)CCOC | C20H23BrN2O2S
